US05246836
Determination of Uric Acid
To each of the mixtures was added a reagent prepared by dissolving 1 μmol 4-aminoantipyrine and 2 units of uricase in 1.5 ml of 0.1M phosphate buffer (pH 6.5). After the resulting mixtures were maintained in a thermostat at 37° C. for about 5 minutes, the absorbance was measured at a wavelength of 555 nm with a spectrophotometer (Model 228, manufactured by Hitachi, Ltd.) using purified water as a control. The results obtained are shown in Table 3.

reactant | 4-aminoantipyrine | 1 μmol | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N | C11H13N3O
reactant | uricase | C1=CN(C(=O)NC1=O)C2C(C(C(O2)COP(=O)(O)OC3C(OC(C3O)N4C=CC(=O)NC4=O)CO)O)O.N
solvent | phosphate | 0.1M, 1.5 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
product | Uric Acid | N1C(=O)NC=2NC(=O)NC2C1=O | C5H4N4O3
